US07186718B2
(ii) 2-(2-Methyl-2H-1,2,3,4-tetraazol-5-yl)phenol
To a stirred solution of 2-(2H-1,2,3,4-tetraazol-5-yl)phenol (0.486 g, 3 mmol) and sodium hydroxide (NaOH) (72 mg, 3 mmol) in water (15 mL) a solution of tetrabutylammonium chloride (83 mg, 0.3 mmol) was added. The mixture was stirred for 5 min, then methyl iodide (0.425 g, 0.187 mL, 3 mmol) was added, and the mixture was stirred for 6 days. The organic layer was then separated, washed with water (2×15 mL), and dried. Evaporation of solvent and flash chromatography on silica gel (ethyl acetate/heptane, 1:1) afforded the subtitle compound (0.257 g, 49%).

reactant | 2-(2H-1,2,3,4-tetraazol-5-yl)phenol | 3 mmol, 0.486 g | N=1NN=NC1C1=C(C=CC=C1)O | C7H6N4O
reactant | sodium hydroxide | 3 mmol, 72 mg | [OH-].[Na+]
reactant | methyl iodide | 3 mmol, 0.187 mL, 0.425 g | CI | CH3I
solvent | water | 15 mL | O | H2O
catalyst | tetrabutylammonium chloride | 0.3 mmol, 83 mg | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2-(2-Methyl-2H-1,2,3,4-tetraazol-5-yl)phenol | 0.257 g, 49% | CN1N=C(N=N1)C1=C(C=CC=C1)O | C8H8N4O
